US08466284B2
6-Methyl-1-[3-(trifluoromethyl)phenyl]-1,4-dihydropyrazine-2,3-dione
Conc. sulphuric acid (2.35 L) was heated to 50-55° C. and N-(2-oxopropyl)-N′-[3-(trifluoromethyl)phenyl]ethanediamide (200 g, 1 eq)) was then added portion-wise over 2 hours to give a clear brown solution. After 3.25 hours the reaction was cooled to 20° C. The reaction mixture was then added to water (6 L), keeping the temperature below 10° C. The white slurry was then stirred at 0-5° C. for a further 1 hour before filtering. The filter cake was washed with water (2 L) and the damp product recharged to the flask. Water (0.85 L) was charged and the mixture stirred for 30 minutes. The mixture was filtered and the filter cake washed with water (0.25 L). The title compound was isolated as a water-wet, off-white solid (228.0 g, water content=26.5%, corrected mass 168.0 g, 90%).

reactant | sulphuric acid | 2.35 L | S(O)(O)(=O)=O | H2O4S
reactant | N-(2-oxopropyl)-N′-[3-(trifluoromethyl)phenyl]ethanediamide | 200 g, 1 eq | O=C(CNC(C(=O)NC1=CC(=CC=C1)C(F)(F)F)=O)C | C12H11F3N2O3
solvent | water | 6 L | O | H2O
product | 6-Methyl-1-[3-(trifluoromethyl)phenyl]-1,4-dihydropyrazine-2,3-dione | CC1=CNC(C(N1C1=CC(=CC=C1)C(F)(F)F)=O)=O | C12H9F3N2O2
